US04315029
To a solution of 10.0 g of cis-2,2-dimethyl-3-(2,2,2-trichloroethyl)cyclopropanecarbonyl chloride in 80 ml of dry benzene, there were added first 8.5 g of α-cyano-3-phenoxybenzyl alcohol and then gradually 4.5 g of pyridine. The mixture was stirred at room temperature overnight. About 70 ml of water was added to the reaction mixture, the benzene layer was separated, washed with water and dried over anhydrous magnesium sulfate, and low-boiling fractions were distilled off under reduced pressure. The oily product thus obtained was purified by preparative liquid chromatography following the procedure of SYNTHESIS EXAMPLE 1 to give 12.1 g (70% yield) of α-cyano-3-phenoxybenzyl cis-2,2-dimethyl-3-(2,2,2-trichloroethyl)cyclopropanecarboxylate with a ratio of racemic modifications D1 /D2 of about 50/50.

reactant | cis-2,2-dimethyl-3-(2,2,2-trichloroethyl)cyclopropanecarbonyl chloride | 10.0 g | CC1([C@H]([C@H]1CC(Cl)(Cl)Cl)C(=O)Cl)C | C8H10Cl4O
reactant | α-cyano-3-phenoxybenzyl alcohol | 8.5 g | C(#N)C(C1=CC(=CC=C1)OC1=CC=CC=C1)O | C14H11NO2
reactant | pyridine | 4.5 g | N1=CC=CC=C1 | C5H5N
reactant | water | 70 ml | O | H2O
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | α-cyano-3-phenoxybenzyl cis-2,2-dimethyl-3-(2,2,2-trichloroethyl)cyclopropanecarboxylate | 12.1 g, 70% yield | CC1([C@H]([C@H]1CC(Cl)(Cl)Cl)C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C22H20Cl3NO3
